US08349833B2
To a solution of 2-(2-chlorophenyl)-2-(6,7-dihydro-4H-thieno[3,2-c]pyridine-5-yl)ethanol (9.7 g, 33.1 mmol) in THF (280 mL) was added thionyl chloride (7.9 g, 66.2 mmol) drop-wise. The solution was stirred at room temperature for 1.5 h (monitored by TLC). The excess thionyl chloride was evaporated under reduced pressure. The residue was dissolved in CH2Cl2 (200 mL), washed with saturated NaHCO3 solution (to pH=7), dried over Na2SO4, and concentrated under vacuum to provide 5-[2-chloro-1-(2-chlorophenyl)ethyl]-4,5,6,7-tetrahydrothieno[3,2-c]pyridine (10.1 g, 98.1%) as a light yellow oil. 1H NMR (Field: 300 MHz, Solvent: CDCl3/TMS) δ (ppm): 7.63 (d, J=6.3 Hz, 1H), 7.36-7.22 (m, 3H), 7.05 (d, J=5.1 Hz, 1H), 6.70 (d, J=5.1 Hz, 1H), 5.62 (t, J=6.3, 1H), 3.71 (s, 2H), 3.10-3.07 (m, 2H), 2.95-2.91 (m, 2H), 2.86-2.84 (m, 2H). 13C NMR (Field: 75 MHz, Solvent: CDCl3/TMS) δ (ppm): 137.72, 133.43, 132.79, 129.56, 129.47, 129.00, 127.43, 125.31, 122.70, 64.37, 56.60, 53.24, 50.98, 25.24. MS (HR, GC-CI): Calculated for C15H15Cl2NS (MH)+: 312.0375, found 312.0349.

reactant | 2-(2-chlorophenyl)-2-(6,7-dihydro-4H-thieno[3,2-c]pyridine-5-yl)ethanol | 33.1 mmol, 9.7 g | ClC1=C(C=CC=C1)C(CO)N1CC2=C(CC1)SC=C2 | C15H16ClNOS
reactant | thionyl chloride | 66.2 mmol, 7.9 g | S(=O)(Cl)Cl | Cl2OS
solvent | THF | 280 mL | C1CCOC1 | C4H8O
product | 5-[2-chloro-1-(2-chlorophenyl)ethyl]-4,5,6,7-tetrahydrothieno[3,2-c]pyridine | 10.1 g, 98.1% | ClCC(C1=C(C=CC=C1)Cl)N1CC2=C(CC1)SC=C2 | C15H15Cl2NS
